Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Assault
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old male transferred to ___ from OSH
status post assault. The patient states that he was walking home
this evening when he was assaulted by 3 men. He states that he
was struck in the head and kicked in his legs. He denies LOC. On
arrival to ___ patient complained of mild right frontal
headache. Denies visual changes. Denied chest pain, shortness of
breath. Complained of right knee, ankle and foot pain. Head CT 
for
OSH shows right frontal SDH.

 
Past Medical History:
HTN
 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION ON ADDMISON:
Vitals: T: 96.7 BP:163 / 101        HR: 68   R    16   O2Sats
100%
Gen: WD/WN, comfortable, NAD.
HEENT: Atraumatic, normocephalic. PERRLA.  EOMs intacat
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

PHYSICAL EXAM ON DISCHARGE: 

Gen: WD/WN, comfortable, NAD.
HEENT: Atraumatic, normocephalic. PERRLA.  EOMs intacat
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

 
Pertinent Results:
___ 01:23PM   WBC-6.8 RBC-4.60 HGB-14.3 HCT-43.5 MCV-95 
MCH-31.0 MCHC-32.8 RDW-14.1
___ 01:23PM   PLT COUNT-206

___: NCHCT:
Right frontal SDH 4.9 mm in length, no midline shift, no mass 
effect, no hydronephrosis. 

___
NCHCT:
IMPRESSION: 
 Re-distribution of small right subdural hematoma, now layering 
over the 
superior aspect of the parietal lobe, causing mild sulcal 
effacement but no midline shift or central herniation.  No 
definite new intracranial hemorrhage. 2.2 cm hypodense region in 
the right frontal lobe, unchanged compared to the prior CT from 
___, possibly a site of contusion or old infarct. 
No acute large vascular territorial infarction.

 
___ Chest x-ray: No acute cardiopulmonary changes

___: Tib/fib, foot: 
RIGHT TIBIA/FIBULA:  There are severe tricompartmental 
degenerative changes of the right knee.  However, there is no 
fracture or dislocation.  Moderate suprapatellar effusion is 
noted.  The ankle mortise is preserved on this non-stress view.  
There is no abnormality in ___ fat pad. 
  
RIGHT FOOT:  Hallux valgus deformity is noted.  There is no 
fracture or 
dislocation. 
  
LEFT TIBIA/FIBULA:  Degenerative changes are severe in the 
lateral and 
patellofemoral compartments.  There is a mild suprapatellar 
effusion.  There 
is no fracture or dislocation.  The ankle mortise is preserved 
on this 
non-stress view. 
  
LEFT FOOT:  Mild DJD of the first TMT joint is seen.  Mild 
hallux valgus 
deformity is also noted.  There is no fracture or dislocation.  
Superior 
calcaneal spur is also noted. 

 
Brief Hospital Course:
The patient was admitted to the neurosurgery service on ___ 
with a right frontal SDH.   Neuro exam was intact. The patient 
was admitted for continued neurologic checks. 

Neuro: Patient complained of a mild headache. Denied vision 
changes, focal weakness, numbness, tingling, difficulty 
producing or comprehending language, dysarthria, dysphagia. 
Neuro exam remained stable at baseline during his admission.

CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.

Hematology:  The patient was hemodynamically stable.

Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.

GI/GU: Patient was also started on a bowel regimen to encourage 
bowel movement. 

ID:  The patient's temperature was closely watched for signs of 
infection.

At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, stable neuro exam and 
pain was well controlled.  The patient was given written 
instructions concerning precautionary instructions and the 
appropriate follow-up care.  All questions were answered prior 
to discharge.  The patient agreed with hospital management and 
verbalized discharge instructions prior to discharge.

 
Medications on Admission:
Lisinopril 20 mg PO daily
 
Discharge Medications:
1. Lisinopril 20 mg PO DAILY 
2. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q6 hours Disp #*45 
Tablet Refills:*0
3. Senna 1 TAB PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth daily Disp #*30 
Tablet Refills:*0
4. LeVETiracetam 500 mg PO BID Duration: 5 Days 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___

 
Discharge Condition:
Stable

 
Discharge Instructions:
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 
•You have been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring. Please take for 5 more days.
 
Followup Instructions:
___